US08431695B2
Step 2: Preparation of tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2,3,4,7-tetrahydro-1H-azepine-1-carboxylate
To a cooled (0° C.) solution of tert-butyl 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-4-hydroxyazepane-1-carboxylate (2.45 g, 7.05 mmol) and triethylamine (2.95 mL, 21.2 mmol) in CH2Cl2 (49 mL) was added trifluoroacetic anhydride (1.99 mL, 14.1 mmol), dropwise. The ice bath was removed and the mixture was stirred at rt for 3 h. The reaction was quenched with H2O (40 mL) and the layers were separated. The organic phase was washed with brine, dried (Na2SO4), and concentrated to dryness. The crude residue was purified by ISCO® chromatography using 1:1 ethyl acetate/hexanes to afford 1.66 g (72%) of the desired product. ES-MS m/z 330.11 [M+H]+, HPLC RT (min) 2.47.

reactant | tert-butyl 4-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-4-hydroxyazepane-1-carboxylate | 7.05 mmol, 2.45 g | NC1=NC=NN2C1=CC=C2C2(CCN(CCC2)C(=O)OC(C)(C)C)O | C17H25N5O3
reactant | triethylamine | 21.2 mmol, 2.95 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 14.1 mmol, 1.99 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 49 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2,3,4,7-tetrahydro-1H-azepine-1-carboxylate | 1.66 g, 72% | NC1=NC=NN2C1=CC=C2C=2CCCN(CC2)C(=O)OC(C)(C)C | C17H23N5O2
